US05631373
Preparation of 6-Amino-7-fluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione
To a solution of 20 mg (0.082 mmol) of 6,7-difluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione in 0.5 mL of DMSO-d6 was added 2 drops of 30% ammonium hydroxide and the solution was heated at 80° C. for 24 h. To the mixture was added one more drop of 30% ammonium hydroxide and it was heated at 80° C. for 10 h. The mixture was added to 4 mL of water and then acidified with 2N HCl to pH=1. The precipitate was filtered, washed with water, and dried to leave a yellow solid (15 mg, 76%); mp 250° C. (dec.); 1H NMR (DMSO-d6), 7.202 (1, d, J=11.5), 7.232 (sb, 2), 11.15 (mb, 1), 12.0 (mb, 1). 19F NMR, -133.84 (d, J=11.6). MS, 240 (M+, 100), 212 (10), 177 (10), 166 (20). HRMS, Calcd for C8H5FN4O4 240.0290, found 240.0294.

reactant | 6,7-difluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione | 0.082 mmol, 20 mg | FC=1C(=C2NC(C(NC2=CC1F)=O)=O)[N+](=O)[O-] | C8H3F2N3O4
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | HCl | 2N | Cl | ClH
catalyst | ammonium hydroxide | 2 drops | [OH-].[NH4+]
solvent | water | 4 mL | O | H2O
product | 6-Amino-7-fluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione | 15 mg, 76% | NC=1C(=C2NC(C(NC2=CC1F)=O)=O)[N+](=O)[O-] | C8H5FN4O4
